US05567717
Preparation of 2-methyl-5-(4-hydroxyphenyl)tetrazole
Preparation of 2-methyl-5-(3,5-dimethyl-4-hydroxyphenyl)tetrazole was prepared by the procedure described above for Intermediate 5 starting with 2,6-dimethyl-4-cyanophenol.

reactant | 2-methyl-5-(3,5-dimethyl-4-hydroxyphenyl)tetrazole | CN1N=C(N=N1)C1=CC(=C(C(=C1)C)O)C | C10H12N4O
reactant | 2,6-dimethyl-4-cyanophenol | CC1=C(C(=CC(=C1)C#N)C)O | C9H9NO
product | 2-methyl-5-(4-hydroxyphenyl)tetrazole | CN1N=C(N=N1)C1=CC=C(C=C1)O | C8H8N4O
